Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
narcotics / anesthesia / erythromycin base / oxycodone / 
Dilaudid
 
Attending: ___
 
Chief Complaint:
Abdominal pain, nausea, and bloating.
 
Major Surgical or Invasive Procedure:
___: Laparoscopic appendectomy 
 
History of Present Illness:
Mrs ___ is a ___ woman with a hx of SVT (previously 
offered ablation but patient declined) presenting with 
epigastric abdominal pain, bloating, and nausea since last 
evening. According to the patient, ___ weeks ago she had acute 
RLQ abdominal pain and went to ___ where workup
(including a CT abdomen/pelvis) was reportedly normal. Her pain 
eventually resolved on its own. Yesterday, she noted abdominal 
bloating in the afternoon and then after dinner around 6pm she 
felt epigastric abdominal pain that became progressively worse 
and eventually localized to the RLQ. This was associated with 
nausea but no vomiting. No changes in bowel habits or diarrhea.

ROS: Denies fevers, chills, SOB, CP, HA, dysuria, urinary 
frequency/urgency, melena, hematochezia.
 
Past Medical History:
Chronic palpitations & SVT (was offered ablation but ultimately 
declined; patient reports no cardiac complications with 
anesthesia), breast cancer, chronic constipation, uterine 
prolapse, borderline (diet controlled) diabetes, last 
colonoscopy ___ was completely normal.

PSH: R mastectomy, hysterectomy, tonsillectomy, ovarian cysts
 
Social History:
___
Family History:
Both her children have Wolfram's syndrome and AVNRT.
 
Physical Exam:
VS: T 98.1, HR 78, BP 132/76, RR 16, O2 sat 97 RA
GEN: Alert and oriented, no acute distress, conversant and 
interactive.
HEENT: Sclerae anicteric, mucous membranes moist, oropharynx is 
clear.
NECK: Trachea is midline, thyroid unremarkable, no palpable 
cervical lymphadenopathy, no visible JVD.
CV: Regular rate and rhythm, no audible murmurs.
PULM/CHEST: Clear to auscultation bilaterally, respirations are 
unlabored on room air.
ABD: Soft, nondistended, minimally and appropriately tender to 
palpation, no rebound or guarding, nontympanitic, no palpable 
masses, dressings over incisions are clean and dry.
Ext: No lower extremity edema, distal extremities feel warm and 
appear well-perfused.
 
Pertinent Results:
___ 07:04AM BLOOD WBC-12.6* RBC-4.14* Hgb-12.9 Hct-36.8 
MCV-89 MCH-31.2 MCHC-35.1* RDW-14.3 Plt ___
___ 07:04AM BLOOD Glucose-160* UreaN-13 Creat-0.8 Na-135 
K-4.4 Cl-101 HCO3-23 AnGap-15
___ 07:04AM BLOOD ALT-18 AST-21 AlkPhos-72 TotBili-0.5
___ 07:04AM BLOOD Lipase-32
___ 07:04AM BLOOD Albumin-4.3

___: CT A/P w/ contrast
LOWER CHEST:  There is mild bibasilar atelectasis of the 
partially imaged lungs. No pleural effusion. There is a trace, 
tiny physiologic pericardial fluid.
 
HEPATOBILIARY:  Focal hypodensity in the region of the porta 
hepatic likely represents focal fat (Series 2, Image 21).  
Otherwise, the liver parenchyma is homogeneous throughout. No 
concerning focal hepatic lesion. There is a small benign 
calcification abutting the right hepatic dome (Series 601b, 
Image 37)). No intrahepatic or extrahepatic biliary ductal 
dilatation. The gallbladder is not abnormally distended and 
within normal limits. No calcified gallstones, gallbladder wall 
thickening, or pericholecystic fluid collection. No ascites. The 
main portal vein appears patent.
 
PANCREAS: There is an 1-cm benign focal fat in the uncinate 
(Series 2, Image 22; Series 601b, Image 27).  Otherwise, the 
remaining pancreatic parenchyma is normal in attenuation 
throughout. No concerning focal pancreatic lesion, pancreatic 
ductal dilatation, or peripancreatic stranding.
 
SPLEEN:  The spleen is normal in size and attenuation. No focal 
splenic lesion. A splenule is noted in the left upper quadrant 
(Series 601b, Image 41).
 
ADRENALS:  The left and right adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are normal in size and symmetric with 
normal nephrograms. Tiny hypodensities in the cortex of the left 
upper renal pole are too small to accurately characterize on CT, 
but likely represent cysts. No concerning focal renal lesion, 
hydronephrosis, or perinephric abnormality. The urinary bladder 
is moderately distended and appears grossly unremarkable.
 
GASTROINTESTINAL:  There is a small hiatal hernia (Series 601b, 
Image 32). Small bowel loops demonstrate normal caliber, wall 
thickness, and enhancement throughout.  The colon and rectum are 
within normal limits.  The appendix is dilated throughout its 
course with wall thickening and mucosal enhancement; the maximum 
diameter of the appendix measures approximately 12 mm (Series 2, 
Image 57; Series 601b, Image 31).  There is adjacent fat 
stranding and prominence of the right lateral conal fascia.  
There is no evidence of macroperforation or intraabdominal fluid 
collection.  No bowel perforation or pneumatosis.
 
RETROPERITONEUM:  No retroperitoneal or mesenteric 
lymphadenopathy.
 
VASCULAR:  No abdominal aortic aneurysm.  There is minimal 
calcium ___ in the abdominal aorta and great abdominal 
arteries.
 
PELVIS: No pelvic or inguinal lymphadenopathy.  No free fluid in 
the pelvis.  The patient is status-post supracervical 
hysterectomy.  The adnexa are otherwise unremarkable.
 
BONES AND SOFT TISSUES:  No suspicious lytic or sclerotic bony 
abnormality.  The abdominal and pelvic walls are within normal 
limits.
 
IMPRESSION: 
1.  Acute appendicitis - no evidence of macroperforation or 
fluid collection.
2.  No bowel obstruction.
3.  Small hiatal hernia.
 
Brief Hospital Course:
Ms. ___ is a ___ female who was admitted to the ___ 
Acute Care Surgery team on ___ for management of acute 
appendicitis (please refer to the HPI for additional details 
regarding her presentation to the hospital). On the day of her 
admission she was taken to the operating room and underwent an 
uncomplicated laparoscopic appendectomy. Intraoperative findings 
included the following: Acutely inflamed and thickened appendix 
with thick inflammatory rind around it, suggestive of subacute 
appendicitis that may have been going on for several weeks. Upon 
manipulation of the appendix there was a minimal amount of stool 
spillage requiring aggressive suctioning and wash out. She 
tolerated the procedure well and was taken to the PACU and 
subsequently to the regular surgical floor without incident. Due 
to the scant amount of stool spillage upon manipulation of the 
appendix, the decision was made to complete a 5-day course of 
Cipro and Flagyl. She was quickly advanced to a regular diet and 
voided postoperatively without any difficulty. She was 
discharged home on POD 1 with a total of 5-days of Cipro/Flagyl 
and was given instructions to follow-up in clinic for a postop 
evaluation. Her final pathology was pending at the time of 
discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TraZODone 75 mg PO QHS:PRN sleep 
2. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Sertraline 50 mg PO DAILY 
2. TraZODone 75 mg PO QHS:PRN insomnia 
3. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 325 mg 2 tablets by mouth every 6 hours Disp 
#*60 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet by mouth two times per day 
Disp #*30 Tablet Refills:*0
5. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
12 hours Disp #*7 Tablet Refills:*0
6. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H Duration: 3 Days 
RX *metronidazole 500 mg 1 tablet by mouth every 8 hours Disp 
#*12 Tablet Refills:*0
7. TraMADOL (Ultram) ___ mg PO Q4H:PRN pain 
RX *tramadol [Ultram] 50 mg ___ tablet(s) by mouth every 4 hours 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute appendicitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ were admitted to ___ for management of acute appendicitis. 
On ___ ___ underwent a laparoscopic appendectomy (removal of 
your appendix). Your surgery went well, ___ are recovering as 
expected, and ___ are now ready to be discharged home to 
continue the remainder of your recovery.

Listed below are some general discharge instructions about 
things to remember after ___ leave the hospital.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
___ experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If ___ are vomiting and cannot keep down fluids or your 
medications.
___ are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
___ see blood or dark/black material when ___ vomit or have a 
bowel movement.
___ experience burning when ___ urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving over the next few days. 
___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
___.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed. ___ may take Tylenol and 
Motrin in addition the Tramadol that ___ are being sent home 
with.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until ___ follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if ___ have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
___ may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If ___ have staples, they will be removed at your follow-up 
appointment.
*If ___ have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

Thank ___ for allowing us to partake in your care. We look 
forward to seeing ___ at your follow-up appointment in clinic!

Sincerely,
Your ___ Acute Care Surgery Team
 
Followup Instructions:
___